US04327040
1 mol of phosphoric acid diethyl ester chloride and 1.07 mols of 50% strength sodium hydroxide solution were added dropwise to 3.33 mols of propargyl alcohol (233% excess) at 15°-20° C. The mixture was stirred for 15 minutes, water was added to dissolve the salt and the mixture was extracted with 800 ml of chloroform. On distillation, 70% of phosphoric acid diethyl propargyl ester was obtained.

reactant | phosphoric acid diethyl ester chloride | 1 mol | [Cl-].C(C)OP(OCC)(O)=O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | propargyl alcohol | 3.33 mols | C(C#C)O | C3H4O
solvent | water | O | H2O
product | phosphoric acid diethyl propargyl ester | 70% | C(C#C)OP(OCC)(OCC)=O | C7H13O4P
